US04476040
1-Methoxy-3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalene (23.2 g, 0.1 mol),prepared according to Example 2, was added to a stirred solution of acetic acid (18.2 g, 0.3 mol), 85% phosphoric acid (17.6 g, 0.15 mol), hydrochloric acid (28.7 g, 0.3 mol) and paraformaldehyde (7.3 g, 0.24 mol). The mixture was stirred and heated at 95° C. for 16 h. The reaction mixture was then cooled to 25° C., benzene (50 mL) added, and stirred vigorously. The organic layer was separated, washed with water (2×25 mL), neutralized with 5% sodium bicarbonate solution, and dried (Na2SO4). The solvent was removed by distillation to provide 2-chloromethyl-1-methoxy-3,5,5,8,8,-pentamethyl-5,6,7,8-tetrahydronaphthalene, GLC purity 84%.

reactant | 1-Methoxy-3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalene | 0.1 mol, 23.2 g | COC1=CC(=CC=2C(CCC(C12)(C)C)(C)C)C | C16H24O
reactant | acetic acid | 0.3 mol, 18.2 g | C(C)(=O)O | C2H4O2
reactant | phosphoric acid | 0.15 mol, 17.6 g | P(O)(O)(O)=O | H3O4P
reactant | hydrochloric acid | 0.3 mol, 28.7 g | Cl | ClH
reactant | paraformaldehyde | 0.24 mol, 7.3 g | C=O | CH2O
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 2-chloromethyl-1-methoxy-3,5,5,8,8,-pentamethyl-5,6,7,8-tetrahydronaphthalene | ClCC1=C(C=2C(CCC(C2C=C1C)(C)C)(C)C)OC | C17H25ClO
